US07851637B2
A solution of Boc-D-Val-OH (940 mg), DMF (5 mL), and 2.0 M dimethylamine in THF (4.3 mL) was treated with HBTU (2.0 g) and stirred at ambient temperature overnight. The reaction mixture was added to saturated NaHCO3 (25 mL) and water (25 mL), then extracted 3×40 mL Et2O. The combined organics, along with the white insoluble material, were stripped of solvent and treated with TFA (10 mL) during 3 h, at which point the TFA was evaporated in vacuo. The residue was coevaporated with toluene, dissolved in THF (50 mL), treated with LiAlH4 (1.6 g), and the suspension held at reflux overnight. The reaction mixture was cooled in an ice bath and treated successively with IPA (10 mL) and 6M NaOH (5 mL); after stirring for 2h, the suspension was filtered, concentrated, and brine (50 mL) added. Extraction with DCM (3×15 mL), drying of the combined organics on MgSO4, and concentration gave a foμL-smelling yellow oil of (2R)-1-dimethylamino-2-amino-3-methyl-butane which was used without further purification.

reactant | Boc-D-Val-OH | 940 mg | N([C@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | HBTU | 2.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 4.3 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2R)-1-dimethylamino-2-amino-3-methyl-butane | CN(C[C@@H](C(C)C)N)C | C7H18N2
